US06348032B1
A methanol (7 ml) solution of N-benzenesulfonyl-4-acetylamino-3-aminobenzamide (0.50 g), 4-(trifluoromethyl)benzyl bromide (0.418 g) and potassium bicarbonate (0.423 g) is stirred for 1 hour at 60° C. to give preliminarily purified N-benzenesulfonyl-4-acetylamino-3-[4-(trifluoromethyl)benzylamino]benzamide (0.30 g). This is dissolved in methanol. When it is left undisturbed crystals precipitated. The crystals are separated through filtration, dried and thus, 6-benzenesulfonylcarbamoyl-2-methyl-1-[4-(trifluoromethyl)benzyl]benzimidazole (0.160 g)is obtained.

reactant | N-benzenesulfonyl-4-acetylamino-3-aminobenzamide | 0.50 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)N)=O | C15H15N3O4S
reactant | 4-(trifluoromethyl)benzyl bromide | 0.418 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | potassium bicarbonate | 0.423 g | C([O-])(O)=O.[K+]
solvent | methanol | 7 ml | CO | CH4O
product | N-benzenesulfonyl-4-acetylamino-3-[4-(trifluoromethyl)benzylamino]benzamide | 0.30 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)NCC1=CC=C(C=C1)C(F)(F)F)=O | C23H20F3N3O4S
